US04472305
Condensation of BocDPheOH (2.65 g.) and HLeuOBz hydrobromide salt (3.02 g.) by the mixed anhydride method using diphenylphosphinyl chloride gave BocDPhe-LeuOBz in 54% yield. Debenzylation of BocDPhe-LeuOBz (2.25 g.) by hydrogenation with palladium catalyst gave BocDPhe-LeuOH in 87% yield. Condensation of BocDPhe-LeuOH (1.50 g.) and HNleNH2 hydrochloride salt (0.667 g.) using dicyclohexylcarbodiimide and N-hydroxysuccinimide gave BocDPhe-Leu-NleNH2 in 60% yield. De-t-butoxycarbonylation of BocDPhe-Leu-NleNH2 (1.00 g.) using hydrogen chloride in acetic acid gave HDPhe-Leu-NleNH2 hydrochloride salt in 79% yield.

reactant | BocDPhe-LeuOH | 1.50 g | N([C@H](CC1=CC=CC=C1)C(=O)N[C@@H](CC(C)C)C(=O)O)C(=O)OC(C)(C)C | C20H30N2O5
reactant | HNleNH2 hydrochloride | 0.667 g | N[C@@H](CCCC)C(=O)N.Cl
reactant | dicyclohexylcarbodiimide | C1(CCCCC1)N=C=NC1CCCCC1 | C13H22N2
reactant | N-hydroxysuccinimide | ON1C(CCC1=O)=O | C4H5NO3
product | BocDPhe-Leu-NleNH2 | 60% yield | N([C@H](CC1=CC=CC=C1)C(=O)N[C@@H](CC(C)C)C(=O)N[C@@H](CCCC)C(=O)N)C(=O)OC(C)(C)C | C26H42N4O5
